US07192943B2
To a stirred solution of diethyl (cyanomethyl)phosphonate (311 mg) in tetrahydrofuran (13 ml) was added sodium hydride (70.3 mg, 60% oil suspension) under nitrogen atmosphere at 0° C., and the mixture was stirred for 45 minutes with warming to room temperature. tert-Butyl [3,4-dioxo-4-({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)butyl]carbamate (1.32 g) was added to the mixture and the stirring was continued for 30 minutes. Water was added to the reaction mixture and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave tert-butyl {(3E)-4-cyano-3-[({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)carbonyl]-3-buten-1-yl}carbamate (1.13 g).

reactant | diethyl (cyanomethyl)phosphonate | 311 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 70.3 mg | [H-].[Na+]
reactant | tert-Butyl [3,4-dioxo-4-({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)butyl]carbamate | 1.32 g | O=C(CCNC(OC(C)(C)C)=O)C(NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C52H51N5O5
reactant | Water | O | H2O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | tert-butyl {(3E)-4-cyano-3-[({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)carbonyl]-3-buten-1-yl}carbamate | 1.13 g | C(#N)/C=C(\CCNC(OC(C)(C)C)=O)/C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H52N6O4
